US07507740B2
Production of 1-(4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoyl)piperidin-4-ol
To a mixture of 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoic acid (150 mg), 4-hydroxypiperidine (33.2 mg) and 1-hydroxybenzotriazole monohydrate (60 mg) in N,N-dimethylformamide (3 mL) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (86 mg) and triethylamine (0.208 mL) at room temperature and the mixture was stirred overnight at room temperature. The mixture was partitioned between ethyl acetate (50 mL) and water (30 mL). The organic layer washed with saturated brine (30 mL), dried over magnesium sulfate, and concentrated under reduced pressure. The residue was separated and purified by basic silica gel column chromatography (eluent, ethyl acetate:methanol=100:0→ethyl acetate:methanol=80:20), and crystallized from diisopropyl ether to give the title compound (168 mg).

reactant | 4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoic acid | 150 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C(=O)O)C=C2 | C27H20ClFN4O3
reactant | 4-hydroxypiperidine | 33.2 mg | OC1CCNCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole monohydrate | 60 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 86 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.208 mL | C(C)N(CC)CC | C6H15N
product | 1-(4-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoyl)piperidin-4-ol | 168 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC2=CC=C(C(=O)N1CCC(CC1)O)C=C2 | C32H29ClFN5O3
